US09169254B2
Triethylamine (34.7 μL, 249 μmol) and di-tert-butyl dicarbonate (32.6 mg, 149 μmol) were added to a solution of 8-[2-(5,7-dimethyl-2-oxo-2,3-dihydro-benzoxazol-6-yl)-ethanesulfonyl]-2-(4-methyl-cyclohexyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (25 mg, 49.7 μmol) in dichloromethane/acetonitrile/DMF (1:1:1) (1.0 mL) at room temperature, and the mixture was stirred at room temperature for three hours. The reaction solution was concentrated under reduced pressure, and the resulting residue was dissolved in methanol (1.0 mL) without purification. Potassium carbonate (34.3 mg, 249 μmol) was added to the solution, and the mixture was stirred at room temperature for two hours. H2O (3 mL) was added, followed by extraction with dichloromethane (10 mL) twice. The organic layers were dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by PTLC (CH2Cl2-MeOH) to give (2-hydroxy-3,5-dimethyl-4-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-phenyl)-carbamic acid tert-butyl ester as a yellow substance (7.0 mg, 24%).

reactant | Triethylamine | 249 μmol, 34.7 μL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 149 μmol, 32.6 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 8-[2-(5,7-dimethyl-2-oxo-2,3-dihydro-benzoxazol-6-yl)-ethanesulfonyl]-2-(4-methyl-cyclohexyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 49.7 μmol, 25 mg | CC=1C(=C(C2=C(NC(O2)=O)C1)C)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1 | C25H34N4O5S
reactant | Potassium carbonate | 249 μmol, 34.3 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane acetonitrile DMF | 1.0 mL | ClCCl.C(C)#N.CN(C)C=O
solvent | H2O | 3 mL | O | H2O
product | (2-hydroxy-3,5-dimethyl-4-{2-[2-(4-methyl-cyclohexyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C(=C(C(=C1)C)CCS(=O)(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)C)=O)CC1)C)O)=O | C29H44N4O6S
